US05484917
G. 1-(t-Butylacetamido)-3-amino-5,7-diphenylhexahydroazepin-2-one
A solution of 1.09 g (2.60 mmol) 1-(t-butylacetamido)-3-azido-5,7-diphenylhexahydroazepin-2-one in 30 mL ethanol and 15 mL methylene chloride was hydrogenated at 42 psi in the presence of 0.40 g 10% palladium-on-carbon for 36 hours. The reaction showed Rf 0.30/0.15 iodoplatinate positive, in 30% methanol in ethyl acetate. It was filtered through Celite with ethanol and methylene chloride, evaporated, and chromatographed on silica gel using 30% methanol in ethyl acetate as eluant to afford 300 mg (29%) of the less polar diastereomer as an oil and 420 mg (41%) of the more polar diastereomer as an oil.

reactant | 1-(t-butylacetamido)-3-azido-5,7-diphenylhexahydroazepin-2-one | 2.60 mmol, 1.09 g | C(C)(C)(C)CC(=O)NN1C(C(CC(CC1C1=CC=CC=C1)C1=CC=CC=C1)N=[N+]=[N-])=O | C24H29N5O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.40 g | [Pd] | Pd
catalyst | iodoplatinate | [H+].[H+].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[K+].[I-].[Pt]
product | 1-(t-Butylacetamido)-3-amino-5,7-diphenylhexahydroazepin-2-one | C(C)(C)(C)CC(=O)NN1C(C(CC(CC1C1=CC=CC=C1)C1=CC=CC=C1)N)=O | C24H31N3O2
